US05371222
Production of (E)-N-methyl-2{-2-[3-(1,3-benzothiazol-2-yloxy)phenoxy]phenyl]-2-methoxyiminoacetamide (Compound No. 90)
To a solution of (E)-N-methyl-2-[2-(3-hydroxyphenoxy)phenyl]-2-methoxyiminoacetamide (0.21 g) in DMF (3 ml), sodium hydride (34 mg) and 2-chloro-1,3-benzothiazole (0.18 g) were added, and the resultant mixture was stirred at 60° C. for 1 hour. The reaction mixture was cooled to room temperature, diluted with water and extracted with ether. The solvent was dried and the residue was purified by silica gel column chromatography to give 0.27 g of the objective compound.

reactant | (E)-N-methyl-2-[2-(3-hydroxyphenoxy)phenyl]-2-methoxyiminoacetamide | 0.21 g | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)O)=O | C16H16N2O4
reactant | sodium hydride | 34 mg | [H-].[Na+]
reactant | 2-chloro-1,3-benzothiazole | 0.18 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-N-methyl-2{-2-[3-(1,3-benzothiazol-2-yloxy)phenoxy]phenyl]-2-methoxyiminoacetamide | 0.27 g | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)OC=1SC2=C(N1)C=CC=C2)=O | C23H19N3O4S
